US07411073B2
Lithium aluminum hydride (65 g) was suspended in dry THF (1.5 L) under a nitrogen atmosphere and this mixture was then treated with a solution of 2,4-difluorophenylacetic acid (169 g) in dry THF (1 L) over a period of 90 min at 0° C. The reaction mixture was stirred for 70 min at 0° C. and then quenched dropwise with the slow addition of 20% w/v KOH(aq) (340 mL) at 0° C. The inorganic salts were then filtered over Hi flo (200 g) and MgSO4 (200 g), washed with ethyl acetate (200 g), and the filtrate concentrated in vacuo to provide the 2,4-difluorophenethyl alcohol. This alcohol was brominated and converted to its Grignard salt in the same manner described for COMPOUNDS I and II respectively. This 0.5M solution of 2,4difluorophenethyl magnesium bromide was used in the following transformation to generate EXAMPLE 4.

reactant | Lithium aluminum hydride | 65 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,4-difluorophenylacetic acid | 169 g | FC1=C(C=CC(=C1)F)CC(=O)O | C8H6F2O2
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | 2,4-difluorophenethyl alcohol | FC1=C(CCO)C=CC(=C1)F | C8H8F2O
